US08912180B2
A mixture of 2-difluoromethyl-1-[2-(methylsulfonyl)-6-morpholin-4-ylpyrimidin-4-yl]-1H-benzimidazole (770 mg), tert-butyl (3S)-3-aminopyrrolidine-1-carboxylate (525 mg), potassium carbonate (390 mg), and N,N-dimethylacetamide (19 mL) was stirred in a microwave reactor at 100° C. for 1 hour. The reaction mixture was cooled to room temperature and then poured into water, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and then the residue was purified by amino silica gel column chromatography (hexane:ethyl acetate=80:20-50:50) to obtain tert-butyl (3S)-3-({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-ylpyrimidin-2-yl}amino)pyrrolidine-1-carboxylate (310 mg) as a pale yellow amorphous substance.

reactant | 2-difluoromethyl-1-[2-(methylsulfonyl)-6-morpholin-4-ylpyrimidin-4-yl]-1H-benzimidazole | 770 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)S(=O)(=O)C)C=CC=C2)F | C17H17F2N5O3S
reactant | tert-butyl (3S)-3-aminopyrrolidine-1-carboxylate | 525 mg | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium carbonate | 390 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylacetamide | 19 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | tert-butyl (3S)-3-({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-ylpyrimidin-2-yl}amino)pyrrolidine-1-carboxylate | 310 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C=CC=C2)F | C25H31F2N7O3
